US06613760B1
Ethyl 5-acetoxyindole-2-carboxylate
A stirred solution of ethyl 5-hydroxyindole-2-carboxylate (7.79 g) and DMAP (20 mg) in acetic anhydride (80 ml) was heated at 80° C. for 4 hours. The reaction was concentrated in vacuo and the residue was dissolved in ethyl acetate. Combined organic extracts were washed with hydrochloric acid (2.0 M), saturated aqueous sodium hydrogen carbonate solution, water, aqueous saturated sodium chloride solution and dried (MgSO4). The solution was concentrated in vacuo to give the product as a yellow solid (9.39 g, 100%): NMR δ(CD3SOCD3) 1.20 (t, 3H), 2.10 (s, 3H), 4.19 (q, 2H), 6.86 (dd, 1H), 6.97 (d, 1H), 7.20 (s, 1), 7.29 (d, 1H); M/z (+) 248 (MH+).

reactant | ethyl 5-hydroxyindole-2-carboxylate | 7.79 g | OC=1C=C2C=C(NC2=CC1)C(=O)OCC | C11H11NO3
reactant | acetic anhydride | 80 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | DMAP | 20 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | Ethyl 5-acetoxyindole-2-carboxylate | 9.39 g, 100% | C(C)(=O)OC=1C=C2C=C(NC2=CC1)C(=O)OCC | C13H13NO4
